US07919519B2
To solution of methyl 1-((4-(5-benzoylbenzofuran-2-yl)-3-fluorophenyl)methyl)-azetidine-3-carboxylate (190 mg, 428 μmol) in MeOH (5.0 mL; 0.14M) and THF (1.0 mL) was added sodium borohydride (130 mg, 3438 μmol) at 0° C., and the resulting mixture was stirred at 0° C. for 10 min, then at 25° C. for 30 min. Saturated aqueous ammonium chloride (10 mL) was added, and the resulting mixture was extracted twice with EtOAc (30 mL). The combined extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (ISCO, 4 g, 0-100% EtOAc/hexanes) furnished (±)-methyl 1-((3-fluoro-4-(5-(hydroxy(phenyl)methyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate as a clear oil. MS (ESI) m/z: Calculated: 445.2; Observed: 446 (M++1).

reactant | methyl 1-((4-(5-benzoylbenzofuran-2-yl)-3-fluorophenyl)methyl)-azetidine-3-carboxylate | 428 μmol, 190 mg | C(C1=CC=CC=C1)(=O)C=1C=CC2=C(C=C(O2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OC)F)C1 | C27H22FNO4
reactant | sodium borohydride | 3438 μmol, 130 mg | [BH4-].[Na+]
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | MeOH | 0.14M, 5.0 mL | CO | CH4O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (±)-methyl 1-((3-fluoro-4-(5-(hydroxy(phenyl)methyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1OC2=C(C1)C=C(C=C2)C(C2=CC=CC=C2)O)CN2CC(C2)C(=O)OC | C27H24FNO4
